US07495103B2
To a suspension of NaHCO3 (504 g, 6.0 mol) and 2,3-dihydro-1H-indole (60 g, 0.5 mol) in CH2Cl2 (600 mL) cooled in an ice-water bath, was added dropwise acetyl chloride (78.5 g, 1.0 mol). The mixture was stirred at room temperature for 2 h. The solid was filtered off and the filtrate was concentrated to give 1-(2,3-dihydro-indol-1-yl)-ethanone (82 g, 100%).

reactant | NaHCO3 | 6.0 mol, 504 g | C(=O)(O)[O-].[Na+]
reactant | 2,3-dihydro-1H-indole | 0.5 mol, 60 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | acetyl chloride | 1.0 mol, 78.5 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,3-dihydro-indol-1-yl)-ethanone | 82 g, 100% | N1(CCC2=CC=CC=C12)C(C)=O | C10H11NO
